US07276505B2
Step 1: Preparation of 2-(4-nitrophenyl)-1,2-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
Thionyl chloride (326 g, 200 ml) was added dropwise under inert atmosphere to methyl 4-hydroxycinnoline-3-carboxylate (10.0 g, 49 mmol). The mixture was heated to reflux for 2.5 h, cooled to room temperature and excess thionyl chloride was removed under vacuum. Toluene (100 ml) was added to the residue and removed under vacuum. This procedure was repeated with further toluene (100 ml). A brown semi-solid material was obtained and taken up in ethanol (200 ml). 4-Nitrophenylhydrazine (5.99 g, 39.2 mmol) was added portionwise. The mixture was stirred at room temperature overnight. The mixture was heated to 40-45° C. for 1 h and cooled to room temperature. The solids were collected by filtration, triturated with ethanol (100 ml) and dried under vacuum. The title compound was isolated as a brown solid (8.42 g, 27.4 mmol, 70%). LCMS: m/z 308 [M+H]+.

reactant | Thionyl chloride | 200 ml, 326 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-hydroxycinnoline-3-carboxylate | 49 mmol, 10.0 g | OC1=C(N=NC2=CC=CC=C12)C(=O)OC | C10H8N2O3
reactant | 4-Nitrophenylhydrazine | 39.2 mmol, 5.99 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-nitrophenyl)-1,2-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | [N+](=O)([O-])C1=CC=C(C=C1)N1NC2=C(N=NC=3C=CC=CC23)C1=O | C15H9N5O3
